US05411973
1,1,1-Trifluoro-2-methyl-3-(4-phenylsulfonylphenoxy)propan-2-ol
A suspension of trimethylsulfoxonium iodide (1.6 6 g, 7.56 mmol) and sodium hydride (0.36 g, 7.56 mmol of 50% in oil) was stirred in 25 mL of dimethylsulfoxide for 25 minutes. The mixture was cooled to 10° C. and was treated with a solution of trifluoroacetone (0.72 g, 6.41 mmol) in tetrahydrofuran (3 mL). After stirring for 20 minutes, the solution was allowed to warm to room temperature where it was treated with a solution of 4-(phenylsulfonyl)phenol (1.5 g, 6.40 mmol) and sodium hydride (0.31 g, 6.4 .mmol of 50% in oil) in dimethylsulfoxide (7.5 mL). The mixture was stirred for 1 hour and then heated to 50° C. for 18 hours. The reaction was poured into water, acidified to pH 6, and extracted with diethylether. The combined organic fractions were evaporated to give an oil. Chromatography, eluting with dichloromethane yielded the title compound as a tan solid (0.22 g); mp 94°-96° C.; NMR: 1.39 (s,3, CH3), 4.12 (q,2, CH2), 6.39 (s,1, OH), 7.17 (s,1, Ar), 7.20 (s,1, Ar), 7.63 (m,3, Ar), 7.91 (m,4, Ar); MS: m/z=361(M+1). Analysis for C16H15F3O4S: Calculated: C, 53.33; H, 4.20; Found: C, 53.54: H, 4.25.

reactant | trimethylsulfoxonium iodide | 7.56 mmol, 6 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 7.56 mmol, 0.36 g | [H-].[Na+]
reactant | trifluoroacetone | 6.41 mmol, 0.72 g | FC(C(C)=O)(F)F | C3H3F3O
reactant | 4-(phenylsulfonyl)phenol | 6.40 mmol, 1.5 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)O | C12H10O3S
reactant | sodium hydride | 0.31 g | [H-].[Na+]
solvent | dimethylsulfoxide | 25 mL | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | dimethylsulfoxide | 7.5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1,1,1-Trifluoro-2-methyl-3-(4-phenylsulfonylphenoxy)propan-2-ol | 0.22 g | FC(C(COC1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1)(O)C)(F)F | C16H15F3O4S
